US04288437
(E)-2-{[(2-Methylpropyl)amino]phenylmethylene}-benzo[b]thiophen-3(2H)-one
Prepared as in Example 35 from 2-benzoyl-benzo[b]thiophen-3-ol and (2-methylpropyl)ammonium acetate with a yield of 69% of theory; m.p. 125°-126° C. (ethyl acetate/petroleum ether 1:2).

reactant | 2-benzoyl-benzo[b]thiophen-3-ol | C(C1=CC=CC=C1)(=O)C1=C(C2=C(S1)C=CC=C2)O | C15H10O2S
reactant | (2-methylpropyl)ammonium acetate | C(C)(=O)[O-].CC(C[NH3+])C
product | (E)-2-{[(2-Methylpropyl)amino]phenylmethylene}-benzo[b]thiophen-3(2H)-one | yield of 69% | CC(CN\C(=C\1/C(C2=C(S1)C=CC=C2)=O)\C2=CC=CC=C2)C | C19H19NOS
